US07888364B2
Stoichiometric amounts (0.04 mol) of methyl proplolate and ethyl 3-aminocrotonate were heated to 140° C. for 1 h. 1 g of the crude (2E,4Z)-methyl-4-(1-aminoethylidene)-5-oxooct-2-enoate in 4 mL of DMF was heated to 230° C. in a sealed microwave reactor for 40 min. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated to afford crude ethyl 6-hydroxy-2-methylnicotinate. A mixture of 800 mg of crude ethyl 6-hydroxy-2-methylnicotinate in 4 mL of phosphorus oxychloride was heated to 150° C. in a sealed microwave reactor for 15 min. The reaction mixture was poured into ice/water, extracted with diethyl ether. The combined organic layers were dried (MgSO4) and evaporated. Purified by silica gel chromatograph (0-20% ethyl acetate/hexane) to yield ethyl 6-chloro-2-methylnicotinate. 400 mg of ethyl 6-chloro-2-methylnicotinate was hydrolyzed via Procedure M to give 6-chloro-2-methylnicotinic acid. 300 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-chloro-2-methylnicotinic acid via Procedure G. The reaction mixture was diluted with ethyl acetate, washed with 0.1 N sodium hydroxide and brine, dried (MgSO4) and evaporated to afford 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide. Procedure F was performed using 100 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 128 mg of 2,6-dimethylpiperazine in 1 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-((3S,5R)-3,5-dimethylpiperazin-1-yl)-2-methylnicotinamide. MS (Q1) 436.3 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 100 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | 2,6-dimethylpiperazine | 128 mg | CC1NC(CNC1)C | C6H14N2
solvent | BuOH | 1 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-((3S,5R)-3,5-dimethylpiperazin-1-yl)-2-methylnicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1C[C@@H](N[C@@H](C1)C)C)C)=O)C1=NC=CC=C1 | C24H26ClN5O
